US06982325B1
Aurone Synthesis Activity of Tyrosinase
In addition, the reaction was carried out under the same conditions using pentahydroxychalcone (PHC) instead of THC as a substrate, and using 0.116 M sodium citrate phosphate buffer (pH 5.4) as a buffer. Similarly, water was used instead of tyrosinase as a control.

reactant | pentahydroxychalcone | OC1=C(C(=C(C(=C1C=CC(=O)C1=CC=CC=C1)O)O)O)O | C15H12O6
reactant | sodium citrate phosphate | 0.116 M, pH 5.4 | P(=O)([O-])(O)O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O.[Na+]
solvent | water | O | H2O
product | Aurone | C1=CC=C(C=C1)/C=C\2/C(=O)C3=CC=CC=C3O2 | C15H10O2
